US08859773B2
5-methoxyquinoline-3-carboxylic acid, shown below, was prepared as follows
Methyl 5-methoxyquinoline-3-carboxylate (Organic and Biomolecular Chemistry, 7(12), 2612-2618; 2009) was saponified using aqueous lithium hydroxide. +ESI (M+H) 203.9; 1H NMR (400 MHz, DMSO-d6, δ): 9.30 (d, 1H), 9.03 (d, 1H), 7.84-7.80 (m, 1H), 7.66 (d, 1H), 7.15 (d, 1H), 4.04 (s, 3H).

reactant | Methyl 5-methoxyquinoline-3-carboxylate | COC1=C2C=C(C=NC2=CC=C1)C(=O)OC | C12H11NO3
reactant | lithium hydroxide | [OH-].[Li+]
product | 5-methoxyquinoline-3-carboxylic acid | COC1=C2C=C(C=NC2=CC=C1)C(=O)O | C11H9NO3
